US03993741
b. synthesis of 2-bromo-1,3-dioctadecyloxypropane
To a solution of 11.0 g of 1,3-dioctadecyloxy-2-propanol in 400 ml of dry dimethylformamide 20 g of thionyl bromide were added dropwise, while stirring well and boiling, after which the reaction mixture was heated at 100° C for 5 hours. After cooling down said mixture was slowly poured out into 400 ml of 5% sodium bicarbonate solution. The aqueous solution was extracted with 4 × 150 ml of hexane, after which the hexane extract was consecutively washed with water, 5% sodium bicarbonate solution, and water. After drying on sodium sulphate 0 aq the solvent was removed under vacuum. The resulting coarse product was purified by means of column chromatography. After evaporation and drying in vacuum (P = 0.001 mm Hg, t = 40° C) 8 gram were obtained, melting point 47.9° - 48.7° C.

reactant | 1,3-dioctadecyloxy-2-propanol | 11.0 g | C(CCCCCCCCCCCCCCCCC)OCC(COCCCCCCCCCCCCCCCCCC)O | C39H80O3
reactant | thionyl bromide | S(=O)(Br)Br | Br2OS
reactant | sodium bicarbonate | 400 ml | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 400 ml, 20 g | CN(C=O)C | C3H7NO
product | 2-bromo-1,3-dioctadecyloxypropane | BrC(COCCCCCCCCCCCCCCCCCC)COCCCCCCCCCCCCCCCCCC | C39H79BrO2
